US06458772B1
c) Chloromethyl 3-(N-benzyloxycarbonyl-L-valyloxy)-propionate
To a solution of 3-(N-benzyloxycarbonyl-L-valyloxy)propanoic acid (5.2 g, 16.08 mmole) in 1,4-dioxane (50 ml) was added a 40% solution of tetrabutylammonium hydroxide (10.43 g, 16.08 mmole) and the mixture was stirred 2 hours at room temperature. The mixture was evaporated under reduced pressure and co-evaporated two times with 1,4-dioxane and two times with toluene. The dried product was dissolved in 40 ml dichloromethane and chloroiodomethane (28.4 g, 160 mmole) was added. The solution was stirred for two days at room temperature and evaporated under reduced pressure. Ethyl acetate (100 ml) was added and the organic phase washed twice with water, dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography. Yield: 2.2 g=35%

reactant | 3-(N-benzyloxycarbonyl-L-valyloxy)propanoic acid | 16.08 mmole, 5.2 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCCC(=O)O | C16H21NO6
reactant | tetrabutylammonium hydroxide | 16.08 mmole, 10.43 g | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | chloroiodomethane | 160 mmole, 28.4 g | ClCI | CH2ClI
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | Chloromethyl 3-(N-benzyloxycarbonyl-L-valyloxy)-propionate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCCC(=O)OCCl | C17H22ClNO6
